US05783522
3-Chloro-2-(4-chloro-3-isopropoxyphenyl)-5-trifluoromethylpyridine (Table 1, Example I.004)
0.23 g (7.8 mmol) of an 80% suspension of sodium hydride in mineral oil was washed with anhydrous pentane to remove the mineral oil and then suspended in 50 ml of anhydrous dimethylformamide. A solution of 2.0 g (6.5 mmol) of 3-chloro-2-(4-chloro-3-hydroxyphenyl)5-trifluoromethylpyridine in 50 ml of anhydrous dimethylformamide was added dropwise to this suspension at 0° C. After the addition is complete, the mixture was stirred for 15 minutes and then 1.3 g (7.8 mmol) of isopropyl iodide were slowly added dropwise. The mixture was then stirred at 20°-25° C. for about 15 h and subsequently poured into 400 ml of water and extracted three times with methyl tert-butyl ether. The combined organic phases were washed with water, dried over sodium sulfate and evaporated under reduced pressure. Yield: 1.9 g (83%) of a colorless oil.

reactant | 3-chloro-2-(4-chloro-3-hydroxyphenyl)5-trifluoromethylpyridine | 6.5 mmol, 2.0 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)O | C12H6Cl2F3NO
reactant | isopropyl iodide | 7.8 mmol, 1.3 g | C(C)(C)I | C3H7I
reactant | water | 400 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-Chloro-2-(4-chloro-3-isopropoxyphenyl)-5-trifluoromethylpyridine | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)OC(C)C | C15H12Cl2F3NO
